US09238632B2
5. Preparation of 5-methoxy-4-(piperazin-1-yl)pyrimidine
Piperazine (20 g, 0.233 mol, 8.33 eq) is dissolved in water (100 ml), and to this solution is added 4,6-dichloro-5-methoxypyrimidine (5.00 g, 41.9 mmol, 1.0 eq). The mixture is stirred vigorously at room temperature for 2.0 h, during which 4,6-dichloro-5-methoxypyrimidine is gradually dissolved. The reaction solution is loaded into hydrogenation reactor and added with 10% Pd/C (0.66 g), and the mixture is stirred under 60 psi (0.4 Mpa) hydrogen atmosphere for 3.0 h. The mixture is filtered, extracted with CH2Cl2 (60 ml*3) for the products in the aqueous phase. Extracts are combined, dried over anhydrous sodium sulfate and filtered by vacuum filtration, and concentrated to give a crude product (5.0 g). The crude product is left to precipitate a white solid (yield: 92.6%).

reactant | Piperazine | 0.233 mol, 20 g, 8.33 eq | N1CCNCC1 | C4H10N2
reactant | 4,6-dichloro-5-methoxypyrimidine | 41.9 mmol, 5.00 g, 1.0 eq | ClC1=NC=NC(=C1OC)Cl | C5H4Cl2N2O
reactant | hydrogen | [H][H] | H2
solvent | water | 100 ml | O | H2O
catalyst | Pd/C | 0.66 g | [Pd] | Pd
product | 5-methoxy-4-(piperazin-1-yl)pyrimidine | 5.0 g | COC=1C(=NC=NC1)N1CCNCC1 | C9H14N4O
